Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
___
 
Attending: ___
 
___ Complaint:
"Depression and anxiety"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
"Pt is a ___ yo male with remote history of MDD requiring ECT 
treatment presenting with 3 months of worsening depressive 
symptoms and passive SI. Pt is seen by Dr. ___ outpatient 
medication management and was started on ECT with Dr. 
___ on ___. He has had 4 unilateral treatments and 2 
bilateral treatments thus far (last session on ___. Pt was 
sent in by his therapist this morning after a discussion about 
his lack of improvement and persistent and debilitating 
depressive symptoms.

Pt's ___ is at bedside and patient frequently deferred to 
her when asked questions about his medical history (such as 
number of hospitalizations, medications and history of 
suicidality). Pt states that he has been feeling very depressed 
and anxious for the last three months. He states he has been 
impulsively pacing around is house all day most days, and 
feeling anxious. He states he feels hopeless, has no appetite, 
and goes to bed early (around 7pm) and sleep ~12 hours a night 
because "sleep is the only thing that makes me feel better). Pt 
states he is still able to bathe, dress and eat but all of these 
things feel difficult. He states he has thoughts of wishing he 
were dead several times a day starting 3 months ago, but states 
he has no plan and does not think he has the energy or intent to 
actually end his life. Pt feels his symptoms are consistent with 
the depressive episode he previously experienced but is 
concerned that this episode is not yet responding to treatment. 

He denies HI and AVH. Pt denies any remote or recent history of 
manic symptoms. Pt is not aware of any recent changes to his 
medication and is somewhat ambivalent about a hospitalization, 
but feels it is a sign of treatment failure."

On interview, patient appeared visibly depressed and exhibited 
psychomotor retardation. Patient reports he is seeking help for 
his "depression and anxiety." He corroborated HPI collected 
above. Notes that since he lost his job about 4 months ago, he 
has been feeling depressed. He currently is financially stable 
but endorses feeling anxious about his finances in the near 
future. He also expressed feeling guilty that he has not been 
able to bring his son into his business of ___ as he 
has been functioning below his baseline. He states that his son 
has been understanding but patient reports that his son "doesn't 
know how sick [ the patient is]."

He describes his sleep as "ok" but notes he has been sleeping 
more than usual (about 10 hours each night). He denies his sleep 
is fragmented as well as experiencing nightmares and endorses 
feeling rested after sleeping. His appetite has been reduced ___ 
"queasiness" which he attributes to his anxious feelings. In 
addition, to being anxious about finances, he expressed anxiety 
around whether ECT would be effective. He estimates he has lost 
about 5lbs in the past month as a result. Reassured patient that 
each individual is different and that it is difficult to predict 
the number of sessions a patient will require. Of note, after 
this interview, patient sought out dinner that was sent up w/ 
him to the unit suggesting he still has some degree of an 
appetite.

At this time, he continues to experience passive SI. He notes 
that for the past 3 months he has experienced constant passive 
SI and "hopelessness." He denies it has been active and denies 
actively planning to harm himself. He denies HI and SIB. Of 
note, patient's affect was primarily restricted throughout the 
interview, but he did become emotional and tearful when 
disclosing his past suicide attempt and requested not to delve 
into the precipitating factors. He denies AVH and did not appear 
to be responding to internal stimuli.

Collateral Contacts: Per Dr. ___ ED ___ note from 
___: "Collateral from Dr. ___, outpatient 
psychiatrist

Dr. ___ Mr. ___ has a history of severe depressive 
episodes, most recently ___ years ago, which improved with ECT 
treatment. He states pt has been moderately depressed for the 
last ___ years but has been significantly worse for the last 
three months and has not yet responded to ECT. The patient has 
been having episodic suicidal thoughts. Dr. ___ is concerned 
about the patient making a suicidal gesture or attempt and 
thinks the patient would benefit from inpatient hospitalization 
to make medication adjustments."

REVIEW OF SYSTEMS: -Psychiatric: See HPI above -General: Denies 
double/blurry vision, CP, SOB, fever, chills, n/v/d 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: - Past diagnoses: MDD - 
Hospitalizations: 5 total, last ___ years ago - Psychiatrist & 
Therapist: Dr. ___ ___ - 
Medication and ECT trials (reason for d/c if known): ~15 
sessions ___ years ago; currently undergoing ECT, per patient 
and OMR last session was ___ - Self-injury/Suicide 
attempts: several suicide attempts ~ ___ years ago per OMR; 
however, patient told this interview he had SA x1 ___ years ago 
(attempted to hang himself) - Trauma: denies

PAST MEDICAL HISTORY: - BPH - HLD 

CURRENT MEDICATIONS: Per Medications tab in Chart reviewed: 
___ - Lexapro 20 mg QAM - Klonopin 1 mg TID - Seroquel 25 
mg BID PRN for anxiety (may take ___ one hour before bedtime for 
sleep) - Atorvastatin 40 mg QD - Tamsulosin 0.4 mg QAM

ALLERGIES: - Zoloft

SUBSTANCE ABUSE HISTORY: - EtOH: socially; last use ~2 weeks 
ago; denies Hx of seizure, withdrawal, DTs - Tobacco: denies - 
Cannabis: denies - Illicits: denies

FORENSIC HISTORY: ___
terms: denies - Current status (pending charges, probation, 
parole): denies - Access to guns: denies
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: - Fam Dx: unknown - Fam 
Hospitalizations: unknown - Fam Treatment Hx/Med Trials: unknown 
- Fam Hx Suicide: unknown
 
Physical Exam:
VITAL SIGNS
___ 2144 Temp: 98.1 PO BP: 132/85 HR: 64 RR: 17 O2 sat: 95%
Dyspnea: 0 RASS: 0 Pain Score: ___ 

EXAM:
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear.
-Cardiovascular: Regular rate and rhythm, normal S1,S2, no
murmurs/rubs/gallops.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales.
-Abdominal: Normoactive bowel sounds. Abdomen soft, nontender,
nondistended. No guarding, no rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No bruising, rashes or lesions noted
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: pupils 3mm, equal, round, reactive to light
---III, IV, VI: extraocular movements not tested
---V: Masseter ___ bilaterally
---VII: nasolabial folds symmetric bilaterally
---VIII: Hearing intact to conversation
---IX, X: Palate elevates symmetrically
---XI:  trapezii ___ symmetric bilaterally
---XII: Tongue protrudes midline
-Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps.
-Sensory: deferred
-DTRs: deferred
___: Normal on finger to nose test, no intention tremor
noted.
-Gait: narrow based, normal initiation, arm swing
Absence of resting tremor,
Absence of rigidity or spasticity
Absence of asterixis 

Cognition:
-Wakefulness/alertness: Awake and alert
-Attention: WORLD backwards and DOTW backwards w/ 0 errors
-Orientation: BI, ___ ___
-Executive function: deferred
-Memory: immediate memory intact; ___ on recall
-Fund of knowledge: ___ past presidents (___, ___
-Calculations: 6 quarters = "$1.50"
-Abstraction: "don't judge a book by its cover" = "look deeper
into the person"; watch/ruler = did not attempt
-Visuospatial: deferred
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance/Behavior: male appearing stated age, wearing 
hospital
gown, slight PMR, no PMA, minimal eye contact
-Attitude: cooperative but minimally engaged
-Mood: "Hopelessness"
-Affect: restricted and at times dysphoric, became tearful
discussing past SA
-Speech: normal volume, slow rate, monotone
-Thought process: goal-directed, reality-oriented
-Thought Content: 
---Safety: endorses passive SI per HPI; denies HI
---Delusions: No evidence of delusions
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: denies AVH
-Perceptual disturbances: does not appear to be responding to
internal stimuli
-Insight: limited
-Judgment: limited

 
Pertinent Results:
___ 12:52PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:48AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG

___ 11:48AM   GLUCOSE-104* UREA N-11 CREAT-0.9 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-26 ANION GAP-14

___ 11:48AM   WBC-5.9 RBC-4.73 HGB-14.5 HCT-43.6 MCV-92 
MCH-30.7 MCHC-33.3 RDW-12.9 RDWSD-43.7
___ 11:48AM   NEUTS-66.3 ___ MONOS-10.3 EOS-1.2 
BASOS-0.5 IM ___ AbsNeut-3.91 AbsLymp-1.26 AbsMono-0.61 
AbsEos-0.07 AbsBaso-0.03
 
Brief Hospital Course:
LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained n that level of 
observation throughout while being unit restricted.

PSYCHIATRIC:

On admission to the unit, the pt was experiencing a severe 
depressive episode with feelings of hopelessness, 
neurovegetative symptoms including increased sleep, decreased 
appetite with five-pound weight loss, severe anhedonia and 
passive SI. He had initiated outpatient ECT (unilateral, then 
bilateral) with Dr. ___ on ___, but despite 
treatment, his depressive symptoms were severe, persistent and 
debilitating. He also endorsed significant anxiety with frequent 
rumination and compulsive pacing. Mr. ___ cited financial 
stress and stress from losing a ___ at work as factors 
that were contributing to his low mood and increased anxiety. 

Diagnostically, his presentation is concerning for MDD, severe, 
recurrent. He has not had a severe depressive episode in about 
___ and has been stable under the care of his psychiatrist, 
Dr. ___ therapist, ___. In the setting of 
psychosocial stress from job and financial uncertainty, 
depressive symptoms returned. Mr. ___ initially started ECT 
outpatient on ___. Prior to admission, he had 4 unilateral 
and 2 bilateral treatments. The pt continued ECT while 
inpatient, receiving bilateral treatments on a ___, 
___ schedule. He was also initiated on olanzapine 
2.5mg BID for rumination and feeling of restlessness. Pt cited 
improvement in anxiety symptoms with initiation of olanzapine. 
He also reported decrease in intensity and frequency of SI with 
continued ECT. Treatment team also observed overall brightening 
of affect and increased emotional reactivity over the course of 
his hospitalization. His home escitalopram 20mg and clonazepam 
1mg TID were continued.

Treatment team would recommend continuing ECT treatment on an 
outpatient basis. Further medication adjustments are deferred to 
outpatient psychiatrist, Dr. ___. Follow-up appointment with 
therapist, ___, was arranged for ___ 
after discharge and after the ___. Prior to 
discharge, the team met with Mr. ___ who was in 
agreement with the plan. She will be present, and able to 
provide support to Mr. ___ over the holiday.

SUBSTANCE USE DISORDERS:
-___

MEDICAL
#HLD
-Continue atorvastatin 40mg qAM
#BPH
-Continue Tamsulosin 0.4mg qAM

PSYCHOSOCIAL
#GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient infrequently attended these groups that focused on 
teaching patients various coping skills. He was present in the 
milieu and was often seen in the hallway and at meals. Appetite 
remained good throughout hospitalization. 

#COLLATERAL CONTACTS & FAMILY INVOLVEMENT
-We obtained collateral from outpatient treaters Dr. ___ 
___ and ___
-We obtained collateral from outpatient family/social supports, 
including ___
-We conducted a family meeting with ___

 #INTERVENTIONS
 - ___:
-Continue outpatient ECT
-Continue escitalopram 20 mg daily
-Continue olanzapine 2.5 mg twice daily for racing,
ruminative thoughts
-Continue clonazepam 1 mg 3 times daily--holding ___ am for 
ECT
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: 
-Appointment with ___ ___ at 11:00am
  -Guardianship: not pursued
  -Behavioral: coping skills and group therapy encouraged
 

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
refractory depression, anhedonia, decreased appetite, suicidal 
thoughts.  His/Her static factors noted at that time include: 
male gender, Caucasian race, marital status (divorced). 

The modifiable risk factors were also addressed at that time, 
Including   
suicidal ideation without intent/plan, hopelessness, social 
withdrawal, lack of purpose, and recent financial loss.  These 
were addressed through ongoing ECT treatment, medication changes 
that provided symptom relief, therapeutic exchanges with 
treatment team, encouragement to participate in group therapy 
activities.

Finally, the patient is being discharged with many protective 
risk factors; like his help-seeking nature, future-oriented 
viewpoint, sense of responsibility to family, reality testing 
ability, good problem-solving skills, positive therapeutic 
relationship with outpatient providers, and strong social 
supports.  Overall, based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. ClonazePAM 1 mg PO TID 
3. QUEtiapine Fumarate 25 mg PO BID:PRN anxiety / insomnia 
4. Atorvastatin 40 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1. Escitalopram Oxalate 20 mg PO DAILY 
2. ClonazePAM 1 mg PO TID 
3. Olanzapine 2.5mg BID
4. Atorvastatin 40 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Recurrent, severe

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status:
Appearance: Stated age, well-groomed, wearing casual clothing,
tired-appearing
Facial expression: unchanging, minimally expressive
Build: Normal weight and height
Behavior: Engaged, cooperative, pleasant
Psychomotor: no abnormal involuntary movements 
Speech: Normal rate, volume and tone
Mood/affect: 'somewhat better, still depressed, like a
___, dysthymic, minimal reactivity but occasionally
smiling
Thought process/content: His thought process is linear, no
loosening of associations.  His thought content is without
suicidal thoughts.  No homicidality.  Improving ruminations.  No
paranoia, no delusions, no perceptual abnormalities.
Intellectual Functioning: Average
Oriented: x4
Memory: Appears to be intact
Insight: Good
Judgment: Good

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___